US09315507B2
3-(4-(Adamantan-1-yl)-2-methylphenoxy)-N-(2-(dimethylamino)ethyl)propanamide (I-13)
The title compound was prepared from 3-(4-(adamantan-1-yl)-2-methylphenoxy)propanoic acid (0.2 g, 0.63 mmol) and N,N-dimethylethane-1,2-diamine (0.056 g, 0.63 mmol) according to the example 1, which was given 3-(4-(adamantan-1-yl)-2-methylphenoxy)-N-(2-(dimethylamino)ethyl)propanamide as a white solid (0.228 g, 93.4% yield).

reactant | 3-(4-(adamantan-1-yl)-2-methylphenoxy)propanoic acid | 0.63 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCCC(=O)O)C=C2)C | C20H26O3
reactant | N,N-dimethylethane-1,2-diamine | 0.63 mmol, 0.056 g | CN(CCN)C | C4H12N2
product | 3-(4-(adamantan-1-yl)-2-methylphenoxy)-N-(2-(dimethylamino)ethyl)propanamide | 0.228 g, 93.4% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCCC(=O)NCCN(C)C)C=C2)C | C24H36N2O2
